US08633319B2
Preparation of 1,1-dimethylethyl (3R)-3-{[(7-chloro-1,6-naphthyridin-5-yl)amino]methyl}-3-fluoro-1-piperidinecarboxylate
A mixture of 5,7-dichloro-1,6-napthyridine (1 eq, 1 wt), 1,1-dimethylethyl (3R)-3-(aminomethyl)-3-fluoro-1-piperidinecarboxylate (1.1 eq, 1.28 wt), and diisopropylethylamine (2 eq, 1.75 vol) in NMP (6 vol) is stirred at 110±5° C. for 17 h. The solution is cooled to 70-75° C. and water (6 vol) added over 47 min at 65-75° C. The mixture is aged at 65-75° C. for 50 min, then cooled to 45° C. to give a slurry. The mixture is slowly cooled to 20-25° C. then aged for 2.25 h. The solid is collected under suction. The filter cake is washed with 1:2 v/v NMP/water (2 vol) then water (2×4 vol) and dried in vacuo at 40±5° C. As the solid still contains significant NMP (16.2% w/w) it is reslurried in 1:1 v/v NMP/water (7.3 vol). The slurry is heated to 65° C. and stirred at 65-66° C. for 1 h. The slurry is cooled to 20-25° C. and aged for 3 days. The solid is collected under suction. The filter cake is washed with 1:2 v/v NMP/water (2 vol) then water (2×4 vol) and dried in vacuo at 40±5° C.

reactant | 5,7-dichloro-1,6-napthyridine | 1 eq | ClC1=C2C=CC=NC2=CC(=N1)Cl | C8H4Cl2N2
reactant | 1,1-dimethylethyl (3R)-3-(aminomethyl)-3-fluoro-1-piperidinecarboxylate | 1.1 eq | NC[C@]1(CN(CCC1)C(=O)OC(C)(C)C)F | C11H21FN2O2
reactant | diisopropylethylamine | 2 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | O | H2O
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 1,1-dimethylethyl (3R)-3-{[(7-chloro-1,6-naphthyridin-5-yl)amino]methyl}-3-fluoro-1-piperidinecarboxylate | ClC1=NC(=C2C=CC=NC2=C1)NC[C@]1(CN(CCC1)C(=O)OC(C)(C)C)F | C19H24ClFN4O2
